US07423030B2
30.1. 5-methoxy-2-(4-methoxymethylbenzoyl)benzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with N-methoxy-4-methoxymethyl-N-methylbenzamide. The product is crystallized from diisopropyl ether.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-4-methoxymethyl-N-methylbenzamide | CON(C(C1=CC=C(C=C1)COC)=O)C | C11H15NO3
product | 5-methoxy-2-(4-methoxymethylbenzoyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)COC)=O | C17H16O5
